US08604023B2
5-(4-Aminopiperidin-1-yl)-7-chloro-1-methyl-3-(naphthalen-2-ylmethyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (50 mg, 0.11 mmol) was dissolved in dichloromethane (0.5 mL) and triethylamine (31 μL, 0.22 mmol), acetic anhydride (11 μL, 0.11 mmol) was added and the mixture was stirred at ambient temperature for 1 hour. To the solution was added silica and concentrated in vacuo. Column chromatography eluting with a gradient of 70-100% ethyl acetate in hexanes then 0-15% methanol in ethyl acetate provided N-(1-(7-chloro-1-methyl-3-(naphthalen-2-ylmethyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)piperidin-4-yl)acetamide (30 mg, 55% yield). ESI m/z measured 489.2043 [M+H]+. calculated 489.2057.

reactant | 5-(4-Aminopiperidin-1-yl)-7-chloro-1-methyl-3-(naphthalen-2-ylmethyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.11 mmol, 50 mg | NC1CCN(CC1)C=1C2=C(N(C(C(N1)CC1=CC3=CC=CC=C3C=C1)=O)C)C=CC(=C2)Cl | C26H27ClN4O
reactant | triethylamine | 0.22 mmol, 31 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.11 mmol, 11 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-(7-chloro-1-methyl-3-(naphthalen-2-ylmethyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)piperidin-4-yl)acetamide | 30 mg, 55% yield | ClC1=CC2=C(N(C(C(N=C2N2CCC(CC2)NC(C)=O)CC2=CC3=CC=CC=C3C=C2)=O)C)C=C1 | C28H29ClN4O2
